US07696193B2
Step 1: 5-(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-pyrazine-2-carbonyl chloride
Thionyl chloride (5 ml) was added slowly to 5-(3-cyclobutyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-pyrazine-2-carboxylic acid (E123a) (485 mg). The resulting reaction mixture was stirred at room temperature for 1 hour and then heated at reflux for a further 1 hour. The reaction mixture was cooled, diluted with toluene and concentrated in vacuo to afford the title compound which was used without further characterisation.

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(3-cyclobutyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-pyrazine-2-carboxylic acid | 485 mg | C1(CCC1)N1CCC2=C(CC1)C=C(C=C2)OC=2N=CC(=NC2)C(=O)O | C19H21N3O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)-pyrazine-2-carbonyl chloride | C1(CCC1)N1CCC2=C(CC1)C=C(C=C2)OC=2N=CC(=NC2)C(=O)Cl | C19H20ClN3O2
